US06034115
4-Methyl-2-propyl-1H-benzimidazole
5.00 g (41 mmol) of 2,3-diamino-toluene and 3.7 ml (41 mmol) of butyric acid are stirred in 41 ml of polyphosphoric acid at 120° C. for 3 hours, and the mixture is poured into 410 ml of water and brought to pH=9 with solid sodium hydride. Thereafter, sodium carbonate is added until the evolution of carbon dioxide has ended, the mixture is extracted five times with 100 ml of ethyl acetate each time, the combined organic phases are dried with anhydrous sodium sulphate and the solution is evaportated - finally under a high vacuum; crude weight: 5.89 g.

reactant | 2,3-diamino-toluene | 41 mmol, 5.00 g | NC1=C(C=CC=C1N)C | C7H10N2
reactant | butyric acid | 41 mmol, 3.7 ml | C(CCC)(=O)O | C4H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 410 ml | O | H2O
product | 4-Methyl-2-propyl-1H-benzimidazole | CC1=CC=CC=2NC(=NC21)CCC | C11H14N2
